US09403835B2
Step 2: 6-chloro-7-methyl-2,3-dihydro-1H-2,4,7a,8-tetraaza-cyclopenta[a]indene
A 32% solution of HCl (0.14 mL) was added to a solution of 6-chloro-7-methyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carboxylic acid tert-butyl ester (140 mg; 0.44 mmol; 1 eq.) in AcOH (0.5 mL) and the reaction mixture was stirred at room temperature for 16 hours. The solution was diluted with DCM, washed with 1M NaOH (2×), dried over sodium sulfate and concentrated in vacuo to afford the title compound (80 mg, 86%) as a yellow solid. 1H NMR (DMSO-d6) δ 8.48 (s, 1H), 4.12-4.03 (m, 4H), 3.73-3.57 (m, 1H), 2.80 (s, 3H). HPLC (max plot) 99.6%, Rt 1.33 min. UPLC/MS: (MS+) 209.1 ([M+H]+).

reactant | HCl | 0.14 mL | Cl | ClH
reactant | 6-chloro-7-methyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carboxylic acid tert-butyl ester | 0.44 mmol, 140 mg, 1 eq. | C(C)(C)(C)OC(=O)N1CC=2C(=C3N=CC(=C(N3N2)C)Cl)C1 | C14H17ClN4O2
solvent | AcOH | 0.5 mL | CC(=O)O | C2H4O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 6-chloro-7-methyl-2,3-dihydro-1H-2,4,7a,8-tetraaza-cyclopenta[a]indene | 80 mg, 86% | ClC1=C(N2N=C3C(=C2N=C1)CNC3)C | C9H9ClN4
